US08012986B2
3′-[4-Trifluoromethyl-6-(6-trifluoromethyl-pyridin-3-yl)-pyrimidin-2-yl]-biphenyl-3-sulfonic acid tert-butylamide was prepared from 2-(3-bromo-phenyl)-4-trifluoromethyl-6-(6-trifluoromethyl-pyridin-3-yl)-pyrimidine (example B.2) (0.448 g, 1.0 mmol) and commercially available 3-(tert.-butylsulfamoyl)-phenylboronic acid (0.31 g, 1.2 mmol) according to the general procedure III. Obtained as light yellow solid (0.56 g), which was subsequently deprotected.

reactant | 2-(3-bromo-phenyl)-4-trifluoromethyl-6-(6-trifluoromethyl-pyridin-3-yl)-pyrimidine | 1.0 mmol, 0.448 g | BrC=1C=C(C=CC1)C1=NC(=CC(=N1)C(F)(F)F)C=1C=NC(=CC1)C(F)(F)F | C17H8BrF6N3
reactant | 3-(tert.-butylsulfamoyl)-phenylboronic acid | 1.2 mmol, 0.31 g | C(C)(C)(C)NS(=O)(=O)C=1C=C(C=CC1)B(O)O | C10H16BNO4S
product | 3′-[4-Trifluoromethyl-6-(6-trifluoromethyl-pyridin-3-yl)-pyrimidin-2-yl]-biphenyl-3-sulfonic acid tert-butylamide | C(C)(C)(C)NS(=O)(=O)C=1C=C(C=CC1)C1=CC(=CC=C1)C1=NC(=CC(=N1)C(F)(F)F)C=1C=NC(=CC1)C(F)(F)F | C27H22F6N4O2S
